US08039460B2
Step A: tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-oxopropyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate
Dess-Martin reagent [1,1,1-Tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one] (257 mg, 0.605 mmol) was added to a solution of tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-hydroxypropyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate (85 mg, 0.202 mmol) in dichloromethane (5 mL) at 0° C., and the mixture was allowed to warm to ambient temperature. After 4 h, the reaction was quenched with saturated aqueous sodium sulfite. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. Purification by silica gel chromatography [100% dichloromethane→95% dichloromethane/5% (10% ammonium hydroxide/methanol)] gave the title compound (19 mg). MS 420.2 (M+1).

reactant | Dess-Martin reagent | 0.605 mmol, 257 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-hydroxypropyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 0.202 mmol, 85 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(C)O)NC(OC(C)(C)C)=O | C22H29F2N3O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2-oxopropyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 19 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(C)=O)NC(OC(C)(C)C)=O | C22H27F2N3O3
